US04923640
3-Methoxy-18-methyl-1,3,5(10),15-estratetraen-17-one
3.4 g of 17-acetoxy-3-methoxy-18-methyl-1,3,5(10),16-estratetraene is refluxed for 1.5 hours in 50 ml of acetonitrile with 2.3 ml of allylmethylcarbonate, 220 mg of palladium acetate and 580 microliters of tributyltin methoxide. The reaction mix is then diluted with water, extracted with dichloromethane and concentrated under vacuum. After chromatographic purification, 2.1 g of 3-methoxy-18-methyl-1,3,5(10),15-estratetraen-17-one with a melting point of 158°-160° C. is obtained.

reactant | 17-acetoxy-3-methoxy-18-methyl-1,3,5(10),16-estratetraene | 3.4 g | C(C)(=O)OC=1[C@]2(CC)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C22H28O3
reactant | allylmethylcarbonate | 2.3 ml | C(C=C)COC([O-])=O
reactant | tributyltin methoxide | 580 microliters | C[O-].C(CCC)[Sn+](CCCC)CCCC
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | O | H2O
catalyst | palladium acetate | 220 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Methoxy-18-methyl-1,3,5(10),15-estratetraen-17-one | COC1=CC=2CC[C@H]3[C@@H]4C=CC([C@@]4(CC)CC[C@@H]3C2C=C1)=O | C20H24O2
